US05468719
Synthesis of N-(7fluoro-4-propargyl-2H-1,4-benzoxazine-3(4H)-one-6-yl)-2-chloroacetimidoylchloride (A compound which is represented by No. 2 in Table 1 and by the general formula [II])
First, 1.00 g of N-(7-fluoro-4-propargyl-2H-1,4-benzoxazine-3(4H)-one-6-yl)-2-chloroacetamide, 2.25 g of triphenylphosphine polymer bound and 4 ml of carbon tetrachloride were dissolved in 35 ml of 1,2-dichloroethane, and then the reflux under heat was continued for 2 hr. After letting the solution stand to cool the same, the solid was filtered out, and then the solvent was distilled out under reduced pressure to quantitatively obtain N-(7-fluoro-4-propargyl-2H-1,4-benzoxazine-3(4H)-one-6-yl)-2-chloroacetimidoylchloride.

reactant | N-(7-fluoro-4-propargyl-2H-1,4-benzoxazine-3(4H)-one-6-yl)-2-chloroacetamide | 1.00 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1NC(CCl)=O | C13H10ClFN2O3
reactant | triphenylphosphine | 2.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 4 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | 1,2-dichloroethane | 35 ml | ClCCCl | C2H4Cl2
product | N-(7fluoro-4-propargyl-2H-1,4-benzoxazine-3(4H)-one-6-yl)-2-chloroacetimidoylchloride | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N=C(CCl)Cl | C13H9Cl2FN2O2
